US09062070B2
Step A: (3R,9aS)-tert-butyl 8-(3-(1H-tetrazol-1-yl)-6,7-dihydro-5H-cyclopenta[c]pyridine-7-carbonyl)-3-(3-cyano-4-fluoro-2-methylphenyl)hexahydro-1H-pyrazino[1,2-a]pyrazine-2(6H)-carboxylate
To a solution of (3R,9aS)-tert-butyl 3-(3-cyano-4-fluoro-2-methylphenyl)hexahydro-1H-pyrazino[1,2-a]pyrazine-2(6H)-carboxylate [I-18A](250 mg, 0.668 mmol) and 3-(1H-tetrazol-1-yl)-6,7-dihydro-5H-cyclopenta[c]pyridine-7-carboxylic acid [I-65] (201 mg, 0.868 mmol) in DMF (4 mL) was added HATU (381 mg, 1.00 mmol) followed by addition of diisopropylethylamine (350 μL, 2.00 mmol). The resulting solution was stirred at rt for 1 h. Ethyl acetate (100 mL) was added and the mixture was washed with saturated sodium bicarbonate (3×100 mL), dried over sodium sulphate, concentrated and the residue was purified by preparative TLC eluting with 10% methanol/methylene chloride to give the title compound. LC/MS: (M+1)+: 588.2.

reactant | (3R,9aS)-tert-butyl 3-(3-cyano-4-fluoro-2-methylphenyl)hexahydro-1H-pyrazino[1,2-a]pyrazine-2(6H)-carboxylate | 0.668 mmol, 250 mg | C(#N)C=1C(=C(C=CC1F)[C@H]1N(C[C@H]2N(C1)CCNC2)C(=O)OC(C)(C)C)C | C20H27FN4O2
reactant | 3-(1H-tetrazol-1-yl)-6,7-dihydro-5H-cyclopenta[c]pyridine-7-carboxylic acid | 0.868 mmol, 201 mg | N1(N=NN=C1)C1=CC2=C(C=N1)C(CC2)C(=O)O | C10H9N5O2
reactant | HATU | 1.00 mmol, 381 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | diisopropylethylamine | 2.00 mmol, 350 μL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | Ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | (3R,9aS)-tert-butyl 8-(3-(1H-tetrazol-1-yl)-6,7-dihydro-5H-cyclopenta[c]pyridine-7-carbonyl)-3-(3-cyano-4-fluoro-2-methylphenyl)hexahydro-1H-pyrazino[1,2-a]pyrazine-2(6H)-carboxylate | N1(N=NN=C1)C1=CC2=C(C=N1)C(CC2)C(=O)N2C[C@@H]1N(C[C@H](N(C1)C(=O)OC(C)(C)C)C1=C(C(=C(C=C1)F)C#N)C)CC2 | C30H34FN9O3
